US07867629B2
Dissolving 5.0 g (20 mmol) of 2-amino-3,5-dibromo pyridine, 5.0 g (41 mmol) of phenylboronic acid and 0.92 g of tetrakis (triphenylphosphine) palladium into 130 milliliter of 1,2-dimethoxyethane, adding 62 milliliter of 2.0M sodium carbonate aqueous solution, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, the resultant solution was further dissolved into ethyl acetate, filtering the solution, washing with water, dried with the use of sodium sulfate. Removing the solvent by distillation, 8.9 g of crude 3,5-diphenyl-2-amino-pyridine was obtained.

reactant | 2-amino-3,5-dibromo pyridine | 20 mmol, 5.0 g | NC1=NC=C(C=C1Br)Br | C5H4Br2N2
reactant | phenylboronic acid | 41 mmol, 5.0 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,2-dimethoxyethane | 130 milliliter | COCCOC | C4H10O2
reactant | sodium carbonate | 2.0M, 62 milliliter | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.92 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-diphenyl-2-amino-pyridine | 8.9 g | C1(=CC=CC=C1)C=1C(=NC=C(C1)C1=CC=CC=C1)N | C17H14N2
